US09447106B2
Step 4: 7-((Methylamino)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of 7-((methylamino)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carbonitrile (20 mg, 0.0557 mmol) in 2 mL of EtOH was added 1 mL of DMSO, 0.5 mL of NaOH (5N) and 0.5 mL of H2O2 (30% solution). The reaction mixture was stirred at 60° C. for 1 hr. Then the mixture was concentrated to remove EtOH. The residue was partitioned between water (20 mL) and EA (20 mL). The EA layer was concentrated to give the product as a white solid (10 mg, yield: 48%). 1H NMR (400 MHz, DMSO-d6) δ 7.51 (d, J=8 Hz, 2H), 7.47-7.40 (m, 2H), 7.19 (t, J=7.6 Hz, 1H), 7.11-7.04 (m, 4H), 6.61 (s, 1H), 4.26-4.16 (m, 1H), 3.34-3.27 (m, 2H), 2.97-2.95 (m, 1H), 2.83-2.77 (m, 1H), 2.33 (s, 3H), 2.08-2.02 (m, 2H). MS (ESI) m/e [M+1]+378.0.

reactant | 7-((methylamino)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.0557 mmol, 20 mg | CNCC1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C21H21N5O
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 7-((Methylamino)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 10 mg, yield: 48% | CNCC1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C21H23N5O2
